US07691855B2
2-Chloro-4-[5-(2,4dichloro-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyrimidine:
To the solution of 1 g (3.07 mMol) of 2-chloro-4-[3-(2,4-dichloro-phenyl)-1H-pyrazol-4-yl]-pyrimidine in 10 mL of DMF is added 0.467 g (3.38 mMol) of potassium carbonate at rt under an atmosphere of Argon. After stirring for 30 min, 1.15 mL (18.42 mMol) of methyl iodide is added. After completion of the reaction (28 h), the mixture is poured onto 100 mL of water, and extracted repeatedly with ethyl acetate. The combined organic layers are washed with NaHCO3, water, brine, dried (Na2SO4), filtered and concentrated under reduced pressure. The crude product is purified twice over silica gel, eluting with ethyl acetate/hexanes (1:1) and CH2Cl2/MeOH (99:1) to obtain the title compound as orange crystals; m.p. 122-125° C.; TLC (silica gel) Rf=0.19 (CH2Cl2/MeOH 99:1).

reactant | 2-chloro-4-[3-(2,4-dichloro-phenyl)-1H-pyrazol-4-yl]-pyrimidine | 3.07 mMol, 1 g | ClC1=NC=CC(=N1)C=1C(=NNC1)C1=C(C=C(C=C1)Cl)Cl | C13H7Cl3N4
reactant | potassium carbonate | 3.38 mMol, 0.467 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 18.42 mMol, 1.15 mL | CI | CH3I
reactant | water | 100 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-Chloro-4-[5-(2,4dichloro-phenyl)-1-methyl-1H-pyrazol-4-yl]-pyrimidine | ClC1=NC=CC(=N1)C=1C=NN(C1C1=C(C=C(C=C1)Cl)Cl)C | C14H9Cl3N4
